US06335459B1
Isopropylmagnesium chloride (2.0M in diethyl ether) (18.75 ml, 37.5 mmol) was added dropwise to a solution of 2-(2,3-dimethoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole (7.06 g, 30.0 mmol) in freshly distilled tetrahydrofuran at room temperature. The mixture was stirred overnight, quenched with water, and diluted with diethyl ether. The layers were separated, and the aqueous layer was washed twice with diethyl ether. The combined organic extracts were dried over anhydrous sodium sulfate, and concentrated in vacuo. Purification by silica gel flash chromatography, eluting with hexane/ethyl acetate, gave 2-(2-isopropyl-3-methoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole as a clear oil (7.08 g, 95.4%).

reactant | Isopropylmagnesium chloride | 37.5 mmol, 2.0M, 18.75 ml | C(C)(C)[Mg]Cl
reactant | 2-(2,3-dimethoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 30.0 mmol, 7.06 g | COC1=C(C=CC=C1OC)C=1OCC(N1)(C)C | C13H17NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-isopropyl-3-methoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 7.08 g, 95.4% | C(C)(C)C1=C(C=CC=C1OC)C=1OCC(N1)(C)C | C15H21NO2
